US04394156
To a solution of 9.6 g (0.03 mol) 1-(3'-amino-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone and 4.2 ml (0.033 mol) N,N-dimethylaniline in 200 ml of abs. chloroform at 0° C. is added dropwise within 30 minutes a solution of 9.3 g (0.033 mol) trifluoromethanesulfonic acid anhydride in 20 ml of abs. chloroform. After stirring the solution for 3 h at 0°-5° C. and 16 h, while the temperature is allowed to rise to 25° C., 100 ml of water are added. The organic phase is separated, washed with 1 N hydrochloric acid, water and saturated sodium chloride solution, dried with manganese sulfate, filtrated and concentrated by evaporation of the solvent. Cristallisation of the residue from ethanol/water yields 12.8 g (97%) 1-(3'-Trifluoromethanesulfonamido-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone, mp. 140° C. (dec.).

reactant | 1-(3'-amino-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone | 0.03 mol, 9.6 g | NC=1C=C(C(=CC1C)C)N1C(=C(C(C(=C1)Cl)=O)C(=O)OC)C | C16H17ClN2O3
reactant | N,N-dimethylaniline | 0.033 mol, 4.2 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | trifluoromethanesulfonic acid anhydride | 0.033 mol, 9.3 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | 100 ml | O | H2O
product | 1-(3'-Trifluoromethanesulfonamido-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone | 12.8 g, 97% | FC(S(=O)(=O)NC=1C=C(C(=CC1C)C)N1C(=C(C(C(=C1)Cl)=O)C(=O)OC)C)(F)F | C17H16ClF3N2O5S
